US06458781B1
Step A. (S)-2-sec-Butylamino-3-methyl-butyric acid
A mixture of L-valine (29.29 g, 250 mmol), and 2-butanone (44.8 mL, 500 mmol, Aldrich Inc, Milwaukee, Wis.) was agitated in an atmosphere of hydrogen (pressure, 39-51 psi) at 45° C. in 500 mL ethanol in the presence of Pd/C (20%, 4 g) until the absorption of hydrogen had ceased. The mixture was filtered, and this ethanolic filtrate was set aside, then the filter cake washed with 450 mL 1 M HCl. The ethanolic filtrate was concentrated to dryness and the residue dissolved in the aqueous filtrate above, which was treated with concentrated aqueous sodium hydroxide (29.8%) to adjust the pH to 5.5, and the mixture concentrated to dryness under reduced pressure. The white solid thus obtained was extracted by stirring 2-3 hours vigorously with 250 mL methanol followed by filtration. This process was repeated several times. The combined extracts were concentrated under reduced pressure and the white solid thus obtained was triturated in warm acetone, filtered, and the solids washed with acetone and dried under vacuum to give 23.4 g (54%) of the pure titled compound as a white solid; mp >300° C. APCI-MS m/z 174.2 (MH+).

reactant | L-valine | 250 mmol, 29.29 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | 2-butanone | 500 mmol, 44.8 mL | CC(CC)=O | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | Pd/C | 4 g | [Pd] | Pd
product | (S)-2-sec-Butylamino-3-methyl-butyric acid | 23.4 g, 54% | C(C)(CC)N[C@H](C(=O)O)C(C)C | C9H19NO2
